US05656660
Benzyl chloroformate (0.630 mL, 753 mg, 4.4 mmol, 1 equiv) and 4-aminobutyric acid (440 mg, 4.3 mmol, 1 equiv) were added to a solution of NaOH (188 mg, 4.7 mmol, 1.1 equiv) in THF-water (25 mL each). More NaOH (175 mg, 4.4 mmol, 1 equiv) was added to make pH>7. The solution was stirred for 3 h. The solution was concentrated in vacuo. Water was added and the solution was washed three times each with dichloromethane and ethyl acetate. The aqueous layer was concentrated in vacuo to yield N-Cbz-4-aminobutyric acid. To a solution of mono-Boc p-xylylene diamine (271 mg, 1.1 mmol, 1 equiv) in dichloromethane (25 mL) was added N-Cbz-4-aminobutyric acid (258 mg, 1.1 mmol, 1 equiv). The mixture was cooled to 0° C. HOBT (165 mg, 1.2 mmol, 1.1 equiv) and EDC (233 mg, 1.2 mmol, 1.1 equiv) were added. NMM (30 drops) was added to adjust pH. The solution was stirred at 0° C. for 1 h and at r.t. over the weekend. Dichloromethane was added, and the solution was washed with 0.05N HCl, saturated aqueous sodium bicarbonate, and brine. The organic layer was dried over MgSO4, filtered, and concentrated in vacuo. Ethanol (30 mL) and palladium (270 mg, 5%/C) were added to the residue (432 mg) and the mixture was stirred under hydrogen (1 atm) for 20 h. The mixture was filtered, and the ethanol was removed in vacuo. To the residue (206 mg, 0.64 mmol, 2.1 equiv) was added dichloromethane (25 mL) and DMF (2 mL). Triethylamine (0.091 mL, 66 mg, 0.65 mmol, 2.2 equiv) and terephthaloyl dichloride (60 mg, 0.3 mmol, i equiv) were added and the solution was stirred overnight. The solution was washed with 0.05N HCl, saturated aqueous sodium bicarbonate, and brine. The organic layer was concentrated in vacuo. TFA and dichloromethane (10 mL each) were added and the solution was stirred for 1 h. The solution was concentrated under vacuum and rinsed twice with ether. The crude product was purified on the Waters LC (2-30% gradient) to yield 50 mg of >95% pure bis TFA salt of the title compound.

reactant | Benzyl chloroformate | 4.4 mmol, 0.630 mL, 753 mg, 1 equiv | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | 4-aminobutyric acid | 4.3 mmol, 440 mg, 1 equiv | NCCCC(=O)O | C4H9NO2
reactant | NaOH | 4.7 mmol, 188 mg, 1.1 equiv | [OH-].[Na+]
reactant | NaOH | 4.4 mmol, 175 mg, 1 equiv | [OH-].[Na+]
solvent | THF water | 25 mL | C1CCOC1.O
product | N-Cbz-4-aminobutyric acid | C(=O)(OCC1=CC=CC=C1)NCCCC(=O)O | C12H15NO4
